US07754727B2
A stirred mixture of 4-trifluoromethanesulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (3.98 g, 12 mmol), 3-biphenylboronic acid (2.77 g, 14 mmol), LiCl (1.53 g, 36 mmol), dimethoxyethane (35 mL), tetrakis-(triphenylphosphin)-palladium (0.81 g, 0.7 mmol) and Na2CO3 (2M solution, 14 mL, 28 mmol) is heated at reflux under argon for 14 h. The mixture is cooled to RT, dimethoxyethane is removed in vacuo and the residue is diluted with aqueous 2N Na2CO3 solution containing a few mL of concentrated NH4OH. The aqueous layer is extracted three times with CH2Cl2. The combined organic extracts are dried (Na2SO4) and evaporated in vacuo. Flash chromatography of the dark residue (SiO2, hexane/ethyl acetate) affords 4-biphenyl-3-yl-3,6,dihydro-2H-pyridine-1-carboxylic acid t-butyl ester as a colourless oil: MS (after treatment with trifluoroacetic acid) 236.3 [M+H−C5H8O2]+; Rf 0.40 (hexane/ethyl acetate 8:2).

reactant | 4-trifluoromethanesulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 12 mmol, 3.98 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
reactant | 3-biphenylboronic acid | 14 mmol, 2.77 g | C1(=CC(=CC=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | LiCl | 36 mmol, 1.53 g | [Li+].[Cl-]
reactant | Na2CO3 | 28 mmol, 2M, 14 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis-(triphenylphosphin)-palladium | 0.7 mmol, 0.81 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dimethoxyethane | 35 mL | C(OC)COC | C4H10O2
product | 4-biphenyl-3-yl-3,6,dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1C=C(C=CC1)C1=CC=CC=C1 | C22H25NO2
